US04112095
Preparation of 6-(m-chlorophenyl)4,5-dihydro-4-methyl-3(2H)-pyridazinone
A mixture of 7.11 g. of 3-(m-chlorobenzoyl)-2-methylpropionic acid, 50 ml. of ethanol and 3.0 ml. of hydrazine hydrate is refluxed for 2 hrs. Cooling and filtering gives crystals, (m.p. 150°-151° C.) which are recrystallized from ethanol to give 5.72 g. of crystals, m.p. 152°-153°.

reactant | 3-(m-chlorobenzoyl)-2-methylpropionic acid | ClC=1C=C(C(=O)CC(C(=O)O)C)C=CC1 | C11H11ClO3
reactant | hydrazine hydrate | O.NN
solvent | ethanol | C(C)O | C2H6O
product | 6-(m-chlorophenyl)4,5-dihydro-4-methyl-3(2H)-pyridazinone | ClC=1C=C(C=CC1)C=1CC(C(NN1)=O)C | C11H11ClN2O
